Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Headaches
 
Major Surgical or Invasive Procedure:
___ - Suboccipital craniotomy for resection of cerebellar 
lesion

 
History of Present Illness:
___ is a ___ female with hx cerebral aneurysm 
clipping in ___ who presents from OSH with left cerebellar 
hypodensity concerning for underlying lesion. Patient reports 
that three weeks ago she started having headaches, which is 
abnormal for her. She describes the headaches to be global and 
resolve with Tylenol, but at the worst was an ___. She also 
reports having difficulty walking, which also started about 
three weeks ago. She describes her walking as "staggering side 
to side." She denies any vision changes, nausea, vomiting, 
confusion, or word finding difficulty. She saw her eye doctor 
this morning for routine visit, who referred her to the ED for 
evaluation of these symptoms. OSH CT showed an area of 
hypodensity in the left cerebellum, concerning for underlying 
lesion. She was subsequently transferred to ___. 

Of note, patient reports her aneurysm clip is not MRI 
compatible.

 
Past Medical History:
- ___ 
- Hypertension 
- S/p aneurysm clipping ___ at ___ by Dr. ___
 
Social History:
___
Family History:
No known history of stroke, cancer, aneurysm. 

 
Physical Exam:
ON ADMISSION: 
O: T: 97.9  BP: 130/62   HR: 64    R 16     O2Sats 98% RA
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils: L ___, R ___        EOMs full
Neck: Supple.
Extrem: Warm and well-perfused.

Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Left pupil 5-4mm, right 4-3mm, both equally reactive to
light. 
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. Slight left upward 
drift

Sensation: Intact to light touch

Coordination: normal on finger-nose-finger and heel to shin

======================================================

ON DISCHARGE: 
Exam:

Opens eyes: [x]Spontaneous [ ]To voice [ ]To noxious

Orientation: [x]Person [x]Place [x]Time

Follows commands: [ ]Simple [x]Complex [ ]None

Pupils:  Right  4-3mm      Left 5-4mm - chronic

EOM: [ ]Full [x]Restricted - chronic, most prominent left 
lateral

Face Symmetric: [x]Yes [ ]NoTongue Midline: [x]Yes [ ]No

Pronator Drift: [ ]Yes [x]No    Speech Fluent: [x]Yes [ ]No

Comprehension Intact: [x]Yes [ ]No

Motor:
TrapDeltoid  BicepTricepGrip
Right 5         5      5        5      5
Left 5         5      5        5      5

IPQuadHamATEHLGast
Right5        5       5      5        5        5
Left5        5       5      5        5        5

[x]Sensation intact to light touch

 
Pertinent Results:
Please see OMR for pertinent lab and imaging results.
 
Brief Hospital Course:
#Brain lesion
Patient was found to have cerebellar hypodensity on NCHCT from 
OSH. CT w/wo contrast was obtained while in the ED at ___ 
which was concerning for underlying mass lesion and 
hydrocephalus. (Of note, she was unable to get MRI due to 
reportedly having a non-compatible aneurysm clip that was placed 
in ___ at ___. Patient was admitted to the ___ for close 
monitoring and surgical planning. She was started on 
dexamethasone 4mg Q6hr for mass effect. CT torso was obtained 
which showed two lung nodules, see below for more information. 
Neuro and radiation oncology were consulted. Plan was made for 
surgical resection of the lesion. On ___, it was determined 
that her aneurysm clip was MRI compatible and she was able to 
have a MRI Brain for surgical planning. She went to the OR the 
evening of ___ for a suboccipital craniotomy for resection of 
her cerebellar lesion. Postoperatively she was monitored in 
Neuro ICU, where she remained neurologically and hemodynamically 
stable. She was transferred to the ___ on POD#2 and made floor 
status. Her Dexamethasone was ordered to taper down to a 
maintenance dose of 2mg BID over the course of one week. Her 
pathology finalized as small cell lung carcinoma. 

#Lung lesions
CT torso was obtained which showed two lung nodules, one in the 
left paramedian abutting the aortic arch and the other in the 
right upper lobe. Pulmonary was consulted and stated that no 
further intervention was indicated until final pathology was 
back. Heme-Onc was also consulted, and made recommendations that 
no further lung imaging or separate lung biopsy was needed. Both 
Pulmonary and Heme-Onc stated that staging and treatment could 
be determined based on the tissue pathology from resection of 
the brain lesion. Her final pathology came back as small cell 
lung carcinoma. She will follow-up with the thoracic oncologist 
on ___. 

#Steroid-induced hyperglycemia
Throughout her admission, the patient intermittently required 
sliding scale Insulin for elevated blood sugars while on 
Dexamethasone. She was evaluated by the ___ inpatient team on 
___, who decided that she did not need to go home on Insulin. 
They recommended discharging her with a glucometer so that she 
could check her blood sugars daily with a goal blood sugar less 
than 200. She was advised to record her readings and follow-up 
with her PCP and ___. 

#Bradycardia
She was due to transfer out to the ___ on POD1, however was 
kept in the ICU for asymptomatic bradycardia to the ___. She 
remained asymptomatic, and her heartrate improved with fluids, 
and administration of her levothyroxine. She intermittently 
dipped to the ___, however remained asymptomatic.

#Bell's palsy
The patient was resumed on her home Valacyclovir and Prenisolone 
gtts. 

#Urinary urgency
On POD 2, the patient complained of urinary urgency and 
increased frequency. U/A was negative and culture was negative. 
Her symptoms had resolved at the time of discharge.

#Dispo 
The patient was evaluated by ___ and OT who cleared her for home 
with services. She was discharged on ___ in stable condition. 
She will follow up in ___ on ___. 
 
Medications on Admission:
- ASA 81mg
- Alendronate 70mg weekly
- Vitamin D3 ___ units daily
- Levothyroxine 88mcg daily
- Lisinopril 20mg daily

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Bisacodyl 10 mg PO/PR DAILY  
3.  Dexamethasone 3 mg PO Q8H Duration: 6 Doses 
start ___: 3tabsq8hrs x2, 2tabsq8hrs x6, 2tabsq12hrs 
maintenance dose.  
This is dose # 2 of 3 tapered doses
RX *dexamethasone 1 mg 3 tablet(s) by mouth every eight (8) 
hours Disp #*120 Tablet Refills:*1 
4.  Docusate Sodium 100 mg PO BID  
5.  Famotidine 20 mg PO Q24H 
RX *famotidine 20 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*1 
6.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line  
7.  Senna 17.2 mg PO HS  
8.  Levothyroxine Sodium 88 mcg PO DAILY  
9.  Lisinopril 20 mg PO DAILY  
10.  PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP LEFT EYE QID  
11.  ValACYclovir 1000 mg PO Q8H  
12.  Vitamin D ___ UNIT PO DAILY  
13. HELD- Alendronate Sodium 70 mg PO 1X/WEEK (___)  This 
medication was held. Do not restart Alendronate Sodium until POD 
___ - ___
14. HELD- Aspirin 81 mg PO DAILY  This medication was held. Do 
not restart Aspirin until POD 14 - ___
___ glucometer
___ Freestyle glucometer. Check blood sugars ___ hours after a 
starchy meal. Record numbers and show to your Oncologist. 
___ test strips
#50. Check blood sugars QD. 3 refills.  
___ Lancets
#50. Check blood sugars QD. 3 refills. 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Brain tumor

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid.

 
Discharge Instructions:
Surgery:

- You underwent surgery to remove a brain lesion from your 
brain. 

- A sample of tissue from the lesion in your brain was sent to 
pathology for testing. 

- Please keep your incision dry until your sutures are removed. 

- You may shower at this time but keep your incision dry.

- It is best to keep your incision open to air but it is ok to 
cover it when outside. 

- Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity:

- We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.

- You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.

- No driving while taking any narcotic or sedating medication. 

- If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 

- No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications:

- Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
We held your Aspirin 81mg daily. You are cleared to resume this 
medication on POD 14 (___). 

- We held your home Alendronate during this admission. You are 
cleared to resume this medication on POD 14 (___). 

- You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

- You were started on Dexamethasone, a steroid that treats 
intracranial swelling. This Dexamethasone is being tapered down 
to a maintenance dose of 2mg BID. Please take this medication as 
prescribed.

- While admitted, you had elevated blood glucose levels that 
needed to be treated by Insulin. You should continue to check 
your blood sugars daily at home with the prescribed glucometer. 
You visiting nurse should teach you how to use this device at 
home. Please record your blood sugars and follow-up with your 
PCP and ___ regarding the results. Your goal blood sugar 
is less than 200. 

What You ___ Experience:

- You may experience headaches and incisional pain. 

- You may also experience some post-operative swelling around 
your face and eyes. This is normal after surgery and most 
noticeable on the second and third day of surgery.  You apply 
ice or a cool or warm washcloth to your eyes to help with the 
swelling. The swelling will be its worse in the morning after 
laying flat from sleeping but decrease when up. 

- You may experience soreness with chewing. This is normal from 
the surgery and will improve with time. Softer foods may be 
easier during this time. 

- Feeling more tired or restlessness is also common.

- Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

When to Call Your Doctor at ___ for:

- Severe pain, swelling, redness or drainage from the incision 
site. 

- Fever greater than 101.5 degrees Fahrenheit

- Nausea and/or vomiting

- Extreme sleepiness and not being able to stay awake

- Severe headaches not relieved by pain relievers

- Seizures

- Any new problems with your vision or ability to speak

- Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:

- Sudden numbness or weakness in the face, arm, or leg

- Sudden confusion or trouble speaking or understanding

- Sudden trouble walking, dizziness, or loss of balance or 
coordination

- Sudden severe headaches with no known reason

 
Followup Instructions:
___